US04001229
Procedure 77. N-(2-Diethylaminoethyl)-4'-(1-oxo-2-phenylbutyl)methanesulfonanilide.
4'-(1-Oxo-2-phenylbutyl)methanesulfonanilide (31.7 g., 0.100 mole), potassium carbonate (13.8 g., 0.100 mole), and 2-chlorotriethylamine (13.6 g., 0.100 mole) are mixed together in 1 liter of acetonitrile and refluxed 18 hr. The reaction mixture is clarified by filtration and concentrated under reduced pressure. The residual oil is dissolved in ethyl ether and the product extracted therefrom with 1.5N HCl. The aqueous acid extract is washed with ethyl ether and then basified with 50% NaOH. The organic material which separates is extracted into ethyl ether and the extracts are washed with water and brine, and the solution dried (MgSO4). The ether is evaporated and the solid residue is crystallized from hexane to yield 24.1 g. (58% yield), m.p. 76°-77°C.

reactant | 4'-(1-Oxo-2-phenylbutyl)methanesulfonanilide | 0.100 mole, 31.7 g | O=C(C(CC)C1=CC=CC=C1)C1=CC=C(NS(=O)(=O)C)C=C1 | C17H19NO3S
reactant | potassium carbonate | 0.100 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorotriethylamine | 0.100 mole, 13.6 g | CCN(CC)CCCl | C6H14ClN
solvent | acetonitrile | 1 liter | C(C)#N | C2H3N
product | N-(2-Diethylaminoethyl)-4'-(1-oxo-2-phenylbutyl)methanesulfonanilide | 58% yield | C(C)N(CCN(C1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O)S(=O)(=O)C)CC | C23H32N2O3S
